US08133882B2
To a 3.2 ml DMF solution of 160 mg of ethyl {[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydro quinolin-3-yl]amino}acetate were added 0.05 ml of benzyl bromide and 75 mg of potassium carbonate, followed by overnight stirring at room temperature. By adding water to the reaction mixture and collecting the insoluble materials by filtration, 200 mg of ethyl {benzyl[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydro quinolin-3-yl]amino}acetate was obtained.

reactant | DMF | 3.2 ml | CN(C)C=O | C3H7NO
reactant | ethyl {[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydro quinolin-3-yl]amino}acetate | 160 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CC)CC)NCC(=O)OCC)=O)F | C24H34FN3O3
reactant | benzyl bromide | 0.05 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 75 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | ethyl {benzyl[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydro quinolin-3-yl]amino}acetate | 200 mg | C(C1=CC=CC=C1)N(C1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C(CC)CC)CC(=O)OCC | C31H40FN3O3
